US06953787B2
N-Trifluoroacetyl-2-iodo-5-methoxyphenethylamine
A solution of N-trifluoroacetyl-3-methoxyphenethylamine (15.8 g, 64 mmol) in methanol (325 mL) was cooled to −78 C., and treated with CaCO3 (14.7 g, 145 mmol), followed by a solution of ICl (29 g, 181 mmol) in methanol (40 mL). The reaction was allowed to warm to 20 C. while stirring overnight and then filtered, concentrated, dissolved in EtOAc (200 mL), washed twice with 5% aqueous sodium bisulfite (100 mL), once with brine (100 mL), dried with Na2SO4 and concentrated to give 23.8 g of a white solid powder. 1H NMR (400 MHz, CDCl3) d 7.68 (d, J=9 Hz, 1 H), 6.76 (s, 1 H), 6.57 (d, J=9 Hz, 1 H), 6.42 (bs, 1 H), 3.77 (s, 3 H), 3.61 (dd, J=7, 7 Hz, 2 H), 2.99 (dd, J=7, 7 Hz, 2 H). MS calculated for C11H11F3INO2+H: 374, observed: 374.

reactant | N-trifluoroacetyl-3-methoxyphenethylamine | 64 mmol, 15.8 g | FC(C(=O)NCCC1=CC(=CC=C1)OC)(F)F | C11H12F3NO2
reactant | CaCO3 | 145 mmol, 14.7 g | C(=O)([O-])[O-].[Ca+2]
reactant | ICl | 181 mmol, 29 g | ICl | ClI
solvent | methanol | 325 mL | CO | CH4O
solvent | methanol | 40 mL | CO | CH4O
product | N-Trifluoroacetyl-2-iodo-5-methoxyphenethylamine | 23.8 g | FC(C(=O)NCCC1=C(C=CC(=C1)OC)I)(F)F | C11H11F3INO2
